US08378107B2
Step 1: {3-[3-(3-Benzyl-1-ethyl-ureidomethyl)-5-methyl-pyridin-2-yl]-4-methoxy-phenyl}-acetic acid ethyl ester
[3-(3-Ethylaminomethyl-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, trifluoroacetate (0.36 mmol) was reacted with benzyl isocyanate (0.05 mL, 0.44 mmol) and triethylamine (0.152 mL, 1.09 mmol) in CH2Cl2 to give the title compound.

reactant | [3-(3-Ethylaminomethyl-5-methyl-pyridin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CNCC)C)=O | C20H26N2O3
reactant | trifluoroacetate | 0.36 mmol | FC(C(=O)[O-])(F)F
reactant | benzyl isocyanate | 0.44 mmol, 0.05 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | triethylamine | 1.09 mmol, 0.152 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {3-[3-(3-Benzyl-1-ethyl-ureidomethyl)-5-methyl-pyridin-2-yl]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CN(C(=O)NCC1=CC=CC=C1)CC)C)=O | C28H33N3O4
